US07368453B2
Step 2. Synthesis of 1-(1,1-Dimethylethyl) 2-ethyl(2S,3S)-3-{[(1,1-dimethylethyl)(dimethyl)silyl]oxy}-1,2-pyrrolidinedicarboxylate
1-(1,1-dimethylethyl) 2-ethyl(2S,3S)-3-hydroxy-1,2-pyrrolidinedicarboxylate (8.98 g, 34.7 mmol), imidazole (2.36 g, 34.7 mmol), dimethylaminopyridine (50 mg, catalytic) and chloro(1,1-dimethylethyl)dimethylsilane (4.96 g, 32.9 mmol) were stirred at room temperature for 16 hours. The reaction was diluted with water and 1N HCl to make the mixture acidic. The mixture was extracted three times with methylene chloride. The organic layer was washed with 1M HCl, dried over MgSO4 to give the title compound as a clear brown oil (10.88 g, 29.1 mmol). 1H NMR (400 MHz, DMSO-D6) δ ppm 0.0 (m, 6 H) 0.8 (m, 9 H) 1.2 (m, 3 H) 1.3 (m, 9 H) 1.7 (m, 1 H) 1.9 (m, 1 H) 3.4 (m, 2 H) 3.9 (m, 1 H) 4.1 (m, 2 H) 4.4 (m, 1 H). ES+=374.30.

reactant | 1-(1,1-dimethylethyl) 2-ethyl(2S,3S)-3-hydroxy-1,2-pyrrolidinedicarboxylate | 34.7 mmol, 8.98 g | O[C@@H]1[C@H](N(CC1)C(=O)OC(C)(C)C)C(=O)OCC | C12H21NO5
reactant | imidazole | 34.7 mmol, 2.36 g | N1C=NC=C1 | C3H4N2
reactant | chloro(1,1-dimethylethyl)dimethylsilane | 32.9 mmol, 4.96 g | Cl[Si](C)(C)C(C)(C)C | C6H15ClSi
solvent | water | O | H2O
solvent | HCl | 1N | Cl | ClH
catalyst | dimethylaminopyridine | 50 mg | CN(C)C1=NC=CC=C1 | C7H10N2
product | 1-(1,1-Dimethylethyl) 2-ethyl(2S,3S)-3-{[(1,1-dimethylethyl)(dimethyl)silyl]oxy}-1,2-pyrrolidinedicarboxylate | 29.1 mmol, 10.88 g | CC(C)(C)[Si](O[C@@H]1[C@H](N(CC1)C(=O)OC(C)(C)C)C(=O)OCC)(C)C | C18H35NO5Si
